US08168654B2
(R)-1-(2-Benzoylamino-ethyl)-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]-octane bromide
To a stirred suspension of (R)-1-(2-tert-butoxycarbonylamino-ethyl)-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide (0.5 g, 1.04 mmol) in dioxane (25 ml) is added hydrogen bromide solution in dioxane (1 ml, prepared by bubbling HBr gas through dry, cooled dioxane). The reaction mixture is stirred at room temperature overnight. The solvent is removed in vacuo and purification of the crude residue by chromatography on C18 silica, eluting with water:acetonitrile affords the title compound as a brown solid.

reactant | (R)-1-(2-tert-butoxycarbonylamino-ethyl)-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide | 1.04 mmol, 0.5 g | [Br-].C(C)(C)(C)OC(=O)NCC[N+]12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(C2=CC=CC=C2)O)=O
reactant | hydrogen bromide | Br | BrH
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (R)-1-(2-Benzoylamino-ethyl)-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]-octane bromide | [Br-].C(C1=CC=CC=C1)(=O)NCC[N+]12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(C2=CC=CC=C2)O)=O | InChI=1S/C30H32N2O4.BrH/c33-28(24-10-4-1-5-11-24)31-18-21-32-19-16-23(17-20-32)27(22-32)36-29(34)30(35,25-12-6-2-7-13-25)26-14-8-3-9-15-26;/h1-15,23,27,35H,16-22H2;1H/t23?,27-,32?;/m0./s1
